US05153201
4-Acetyl-2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine
to a solution of 2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine (1.0 g, 3.3 mmole) in pyridine (10 ml) was added dropwise acetic anhydride (0.68 g, 6.6 mmole) with ice-cooling. The reaction mixture was heated with stirring at 80° C. for 3 hours and then a sodium bicarbonate solution was added to the mixture which was extracted with a chloroform-methanol mixed solvent. The extract was dried over magnesium sulfate and concentrated. The residue was purified by flash column chromatography and then recrystallized from hexane-ethyl acetate to obtain the title compound (867 mg, yield: 76.0%).

reactant | 2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | 3.3 mmole, 1.0 g | COC1=C(C=CC=2SC=3NCCCC3N2)C=CC=C1OC | C16H18N2O2S
reactant | acetic anhydride | 6.6 mmole, 0.68 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-Acetyl-2-(2,3-dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | 867 mg, yield: 76.0% | C(C)(=O)N1C2=C(CCC1)N=C(S2)C=CC2=C(C(=CC=C2)OC)OC | C18H20N2O3S
